US04472404
5,7-Dibromo-8-hydroxyquinoline (19.7 g), ethyl isocyanatoacetate (13.0 g) and triethylamine (6.58 g) were mixed in 200 ml of toluene and heated at reflux temperature for about 47 hours. The solution was cooled to room temperature and the desired ethyl N-(((5,7-dibromo-8-quinolinyl)oxy)carbonyl)glycinate was obtained as a white, crystalline solid, m.p. 129.5° C. (decomposition).

reactant | 5,7-Dibromo-8-hydroxyquinoline | 19.7 g | BrC1=C2C=CC=NC2=C(C(=C1)Br)O | C9H5Br2NO
reactant | ethyl isocyanatoacetate | 13.0 g | N(=C=O)CC(=O)OCC | C5H7NO3
reactant | triethylamine | 6.58 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl N-(((5,7-dibromo-8-quinolinyl)oxy)carbonyl)glycinate | BrC1=C2C=CC=NC2=C(C(=C1)Br)OC(=O)NCC(=O)OCC | C14H12Br2N2O4
